US08426411B2
To a flask charged with (cis)-ethyl 4-ethylpyrrolidine-3-carboxylate (8.69 g, 50.7 mmol) was added aqueous HCl (6N, 130 mL, 782 mmol). The solution was heated at about 75° C. for about 12 h. aqueous HCl (6N, 100 mL, 599 mmol) was added and stirred at about 80° C. for about 20 h. Aqueous HCl (6N, 100 mL, 599 mmol) was added and continued stirring at about 80° C. for about 20 h. The reaction mixture was cooled to ambient temperature and the solvent was removed under reduced pressure. 1,4-Dioxane (275 mL) and water (50 mL) were added followed by portionwise addition of Na2CO3 (13.5 g, 127 mmol). Di-tert-butyl dicarbonate (13.3 g, 60.9 mmol) was added and the reaction mixture was stirred at ambient temperature for about 16 h. The solid was filtered and washed with EtOAc (250 mL). The aqueous layer was acidified with aqueous HCl (1N) to about pH 3-4. The layers were partitioned and the aqueous layer was extracted with EtOAc (3×100 mL). The combined organic layers were dried over anhydrous Na2SO4, filtered and removed under reduced pressure. As the organic layer was almost fully concentrated (about 10 mL remaining), a solid precipitated. Heptane (30 mL) was added and the solid was filtered washing with heptane to afford (cis)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-3-carboxylic acid (3.9 g, 32%) as an off white solid as product: LC/MS (Table 1, Method c) Rt=0.57 min; MS m/z: 242 (M−H)−.

reactant | (cis)-ethyl 4-ethylpyrrolidine-3-carboxylate | 50.7 mmol, 8.69 g | C(C)[C@@H]1[C@@H](CNC1)C(=O)OCC | C9H17NO2
reactant | HCl | 782 mmol, 6N, 130 mL | Cl | ClH
reactant | HCl | 599 mmol, 6N, 100 mL | Cl | ClH
reactant | HCl | 599 mmol, 6N, 100 mL | Cl | ClH
reactant | Na2CO3 | 127 mmol, 13.5 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Di-tert-butyl dicarbonate | 60.9 mmol, 13.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
product | (cis)-1-(tert-butoxycarbonyl)-4-ethylpyrrolidine-3-carboxylic acid | 3.9 g, 32% | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)CC)C(=O)O | C12H21NO4
